US08791185B2
Preparation of 2-ethylhexyl methyl terephthalate
A 2000 ml multi-neck flask stirring apparatus, composed of an intensive condenser, which is attached to a thermostat, and a distillation bridge, is charged with 1 mol of dimethyl terephtalate in 1.2 l of xylene at 40° C., and a mixture of 340 mg of titanium(IV) butoxide and 1 mol of 2-ethyl-1-hexanol is added dropwise.

reactant | dimethyl terephtalate | 1 mol | C(C1=CC=C(C(=O)OC)C=C1)(=O)OC | C10H10O4
reactant | 2-ethyl-1-hexanol | 1 mol | C(C)C(CO)CCCC | C8H18O
solvent | xylene | 1.2 l | C=1(C(=CC=CC1)C)C | C8H10
catalyst | titanium(IV) butoxide | 340 mg | [O-]CCCC.[Ti+4].[O-]CCCC.[O-]CCCC.[O-]CCCC
product | 2-ethylhexyl methyl terephthalate | C(C1=CC=C(C(=O)OC)C=C1)(=O)OCC(CCCC)CC | C17H24O4
